* E:\Eigene Dateien\Hardware Tüfteleien\Smart Subwoofer\LT Spice\Standby Relai.asc
S§Relais_Amp N002 N006 N003 N001 JQX-115F SW
D§Amps N002 N007 D
V1 N006 P001 1V
R1 N007 P001 200
D2 N001 N003 D
Q1 0 N005 N001 0 2N5401
V2 N003 0 5
Q2 N003 N009 N004 0 2N5401
V§ST-Pin N008 0 5V
R2 N009 N008 10k
R3 0 N004 47k
R4 N005 N004 10k
R5 N001 N003 80R
.model D D
.lib C:\Users\tobia\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\tobia\AppData\Local\LTspice\lib\cmp\standard.bjt
.op
.backanno
.end
